US06780858B2
2-(3-Chloro-phenylamino-N-{3-[2-(3-chloro-phenylamino)-acetylamino]-5-trifluoromethyl-phenyl}acetamide (140)
To a CH2Cl2 solution of 2-Bromo-N-[3-(2-bromo-acetylamino)-5-trifluoromethyl-phenyl]-acetamide (150 mg, 0.30 mmol) at room temperature was added 3-chloroaniline (100 μL), the mixture was stirred at room temperature for 1 hour. The mixture was diluted with ethyl acetate, washed with NaHCO3 solution followed by 1N HCl (2×) and brine. The organic layer was dried over MgSO4, filtered and stripped and the crude product was purified by flash chromatography on silica gel eluted with hexane/ethyl acetate (2:1) to give 132 mg of the title compound in 92% yield. 1H NMR (400 MHz, CDCl3): δ 3.87(s, 4H), 6.49(dd, J=2, 8.4 Hz, 2H), 6.63(s, 2H), 6.79(d, J=2, 8.4 Hz, 2H), 7.10(t, J=8.0 Hz, 2H), 7.46(s, 2H), 8.20(s, 1H), 8.77(s, 2H). MS SEI m/z relative intensity: M+H, 511.2(100).

reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | 2-Bromo-N-[3-(2-bromo-acetylamino)-5-trifluoromethyl-phenyl]-acetamide | 0.30 mmol, 150 mg | BrCC(=O)NC1=CC(=CC(=C1)C(F)(F)F)NC(CBr)=O | C11H9Br2F3N2O2
reactant | 3-chloroaniline | 100 μL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Chloro-phenylamino-N-{3-[2-(3-chloro-phenylamino)-acetylamino]-5-trifluoromethyl-phenyl}acetamide | 132 mg, 92% yield | ClC=1C=C(C=CC1)NCC(=O)NC1=CC(=CC(=C1)C(F)(F)F)NC(CNC1=CC(=CC=C1)Cl)=O | C23H19Cl2F3N4O2
